US07112582B2
Step 2: Preparation of 5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carbaldehyde
DMSO (1.7 ml, 24 mmol) in 5 ml CH2Cl2 was cooled to −50–60° C. Oxalyl chloride (1 ml, 11 mmol) in 20 ml DCM was then added within 5 minutes at 50° C. The mixture was kept at −50° C. for 5 minutes and then 1.67 gram (9 mmol) of (5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-2-yl)-methanol in 20 ml DCM was added at 50° C. and the mixture was stirred for another 15 minutes at 50° C. Triethylamine (7 ml) was then added at −50° C. and after 5 minutes the bath was removed and the mixture is naturally warmed up to 23° C. It was washed with 100 ml water and extracted with 100 ml ethyl acetate. The combined organic layers were dried over magnesium sulfate. Filter. Concentrate and flash column chromatograph using 0–15% methanol in ethyl acetate yielded 736 mg (45% yield) product.

reactant | DMSO | 24 mmol, 1.7 ml | CS(=O)C | C2H6OS
reactant | Oxalyl chloride | 11 mmol, 1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-2-yl)-methanol | 9 mmol, 1.67 gram | CN1CC2=C(CC1)SC(=C2)CO | C9H13NOS
reactant | Triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carbaldehyde | 736 mg, 45% yield | CN1CC2=C(CC1)SC(=C2)C=O | C9H11NOS
